US04592866
2-[2-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]ethyl]2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepine-5(4H)-thione oxalate hydrate [1:1:1]
A solution of 4 g (0.016 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepine-5(4H)thione and 4.5 g (0.016 mole) of 4-[bis(4-fluorophenyl)methyl]piperidine in 100 ml of ethanol was refluxed for 48 hr. One gram of K2CO3 was added and this mixture stirred at reflux for 144 hr. The mixture was concentrated and the residue partitioned between chloroform and dilute sodium hydroxide. The chloroform was dried over anhydrous sodium sulfate and concentrated. The residue was chromatographed on a Waters®500 HPLC using a silica column and eluting with absolute ethanol. The material with mass 507 was collected and concentrated. The residue (6 g) was reacted with 1.2 g of oxalic acid in ethanol. Yield was 5 g, m.p. 125°-138° C.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepine-5(4H)thione | 0.016 mole, 4 g | ClCCC1OC2=C(C(N(C1)C)=S)C=CC=N2 | C11H13ClN2OS
reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | 0.016 mole, 4.5 g | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
reactant | K2CO3 | One gram | C(=O)([O-])[O-].[K+].[K+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[2-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]ethyl]2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepine-5(4H)-thione oxalate hydrate | O.C(C(=O)O)(=O)O.FC1=CC=C(C=C1)C(C1CCN(CC1)CCC1OC2=C(C(N(C1)C)=S)C=CC=N2)C2=CC=C(C=C2)F | InChI=1S/C29H31F2N3OS.C2H2O4.H2O/c1-33-19-25(35-28-26(29(33)36)3-2-15-32-28)14-18-34-16-12-22(13-17-34)27(20-4-8-23(30)9-5-20)21-6-10-24(31)11-7-21;3-1(4)2(5)6;/h2-11,15,22,25,27H,12-14,16-19H2,1H3;(H,3,4)(H,5,6);1H2
